US07304062B2
1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-(3-methoxyphenylmethyl)semicarbazide
4-[4-(1-Ethoxycarbonyl-1-methyl-ethoxy)-phenyl]butyric acid (4.86 g, 16.5 mmol) was dissolved in ethyl acetate (40 mL). Oxalyl chloride (2.43 g, 19.14 mmol) was added to this solution dropwise in the presence of a catalytic amount of N,N-dimethylformamide (100 mg, 1.37 mmol). Completion of acid chloride formation was verified by HPLC. This solution was then added dropwise to a suspension of 1-(3-methoxyphenylmethyl)hydrazine carboxamide methanesulfonate (4.80 g, 16.5 mmol) and pyridine (1.30 g, 16.5 mmol) in ethyl acetate (55 mL) at 0-5° C. After stirring at 0-5° C. for 6 h, an additional charge of pyridine was added (1.30 g, 16.5 mmol) and the solution was stirred at 0-5° C. for 1 h at which time the reaction was complete. The solution was warmed to rt and washed twice with 1N HCl (80 mL) and twice with 5% aq. NaHCO3 (80 mL). The organic layer was dried (MgSO4), filtered and concentrated to a waxy solid. The solids were recrystallized from a mixture of toluene (17 mL) and n-heptane (7 mL) at 60° C., cooled to 0-5° C. and filtered. The solids were dried in vacuo at 40° C. overnight, affording the title compound as a white solid (5.05 g, 65%): 1H NMR (DMSO-d6, 60° C.) δ 9.60 (s, 1H), 7.19 (t, 1H, J=8 Hz), 7.00 (d, 2H), 6.80 (m, 3H), 6.71 (d, 2 H, J=8 Hz), 5.92 (s, 2H), 4.52 (s, 2H), 4.15 (q, J=7 Hz), 3.71 (s, 3H), 2.45 (t, 2H, J=7 Hz ), 2.07 (t, 2H, J=7 Hz ), 1.73 (quint, 2H, J=7 Hz), 1.48 (s, 6H), 1.17 (t, 3H, J=7 Hz); 13C NMR (DMSO-d6) δ 174.0, 171.9, 159.9, 159.3, 153.7, 140.5, 135.9, 129.9, 129.7, 120.9, 119.4, 114.1, 113.1, 79.2, 61.6, 55.5, 50.9, 34.3, 33.4, 27.2, 25.7, 14.6; IR (KBr mull): 3450, 3320, 3275, 3202, 2997, 2940, 1730, 1646, 1511 cm−1; Anal. Calcd. for C25H33N3O6: C, 63.68; H, 7.05; N, 8.91. Found: 63.49; H, 7.02; N, 8.99.

reactant | 4-[4-(1-Ethoxycarbonyl-1-methyl-ethoxy)-phenyl]butyric acid | 16.5 mmol, 4.86 g | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)O)C | C16H22O5
reactant | Oxalyl chloride | 19.14 mmol, 2.43 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 1.37 mmol, 100 mg | CN(C=O)C | C3H7NO
reactant | 1-(3-methoxyphenylmethyl)hydrazine carboxamide methanesulfonate | 16.5 mmol, 4.80 g | CS(=O)(=O)O.COC=1C=C(C=CC1)CN(N)C(=O)N
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 55 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 16.5 mmol, 1.30 g | N1=CC=CC=C1 | C5H5N
product | 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-(3-methoxyphenylmethyl)semicarbazide | 5.05 g, 65% | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)N)CC1=CC(=CC=C1)OC)C | C25H33N3O6
